US08703954B2
Synthesis of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Diphosphate
A solution of phosphoric acid (52.8 mg) in acetonitrile (0.2 mL) was added to a solution of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine (100 mg) in acetonitrile (0.8 mL) at room temperature. The precipitated oil was solidified as a result of stirring with spatula. The solid was collected by filtration through a glass filter. The solid was washed with ice-cold acetonitrile, air-dried at room temperature for 10 minutes and then dried under reduced pressure at room temperature to obtain 120 mg of the title compound as white solid crystals.

reactant | phosphoric acid | 52.8 mg | P(O)(O)(O)=O | H3O4P
reactant | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine | 100 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.8 mL | C(C)#N | C2H3N
product | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Diphosphate | 120 mg | OP(O)(=O)OP(=O)(O)O.COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | InChI=1S/C25H23F3N6O.H4O7P2/c1-16-14-33(15-29-16)21-11-9-17(30-24(21)35-2)10-12-22-31-23-19(7-5-13-34(23)32-22)18-6-3-4-8-20(18)25(26,27)28;1-8(2,3)7-9(4,5)6/h3-4,6,8-12,14-15,19H,5,7,13H2,1-2H3;(H2,1,2,3)(H2,4,5,6)/b12-10+;/t19-;/m0./s1
